*PulseLoop
 .include sky130nm.lib
 Xpg1 sNoise outB outA pgNeg
 Xpg2 outA sNoise outB pgNeg
 * Separate circuit for neg pos
 Xpg3 sNoise NPoutB NPoutA pgNeg
 Xpg4 NPoutA sNoise NPoutB pgNegPos
 * Phase Circuit 
 Xpg5 NPoutA upB upA pgNeg
 Xpg6 upA outA upB pgNeg
 .measure tran responseTimeA WHEN v(outA)=1.2 CROSS=1
 .measure tran responseTimeA WHEN v(outA)=1.2 CROSS=2
 .measure tran responseTimeA WHEN v(outA)=1.2 CROSS=3
 .measure tran responseTimeA WHEN v(outA)=1.2 CROSS=4
 .measure tran responseTimeB WHEN v(outB)=1.2 CROSS=1
 .measure tran responseTimeB WHEN v(outB)=1.2 CROSS=2
 .measure tran responseTimeB WHEN v(outB)=1.2 CROSS=3
 .measure tran responseTimeB WHEN v(outB)=1.2 CROSS=4
 .measure tran NPresponseTimeA WHEN v(NPoutA)=1.2 CROSS=1
 .measure tran NPresponseTimeA WHEN v(NPoutA)=1.2 CROSS=2
 .measure tran NPresponseTimeA WHEN v(NPoutA)=1.2 CROSS=3
 .measure tran NPresponseTimeA WHEN v(NPoutA)=1.2 CROSS=4
 .measure tran NPresponseTimeB WHEN v(NPoutB)=1.2 CROSS=1
 .measure tran NPresponseTimeB WHEN v(NPoutB)=1.2 CROSS=2
 .measure tran NPresponseTimeB WHEN v(NPoutB)=1.2 CROSS=3
 .measure tran NPresponseTimeB WHEN v(NPoutB)=1.2 CROSS=4
 .measure tran responseTimeupA WHEN v(upA)=1.2 CROSS=1
 .measure tran responseTimeupA WHEN v(upA)=1.2 CROSS=2
 .measure tran responseTimeupA WHEN v(upA)=1.2 CROSS=3
 .measure tran responseTimeupA WHEN v(upA)=1.2 CROSS=4
 .measure tran responseTimeupB WHEN v(upB)=1.2 CROSS=1
 .measure tran responseTimeupB WHEN v(upB)=1.2 CROSS=2
 .measure tran responseTimeupB WHEN v(upB)=1.2 CROSS=3
 .measure tran responseTimeupB WHEN v(upB)=1.2 CROSS=4
 v2 sNoise 0 dc 0 trrandom (2 20p 0 0.8999999999999999 0.1
.control 
 tran 10ps 100ns 
 *quit
 .endc
 
 
 *PG
 .subckt pgNegPos Aneg Bpos x
 
 xm1 1 reset_loop critical_node 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 0 Aneg critical_node 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 1 Bpos critical_node 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm3 1 critical_node invO 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 0 critical_node invO 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm4 1 invO reset_loop 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 0 invO reset_loop 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 1 invO xe 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 0 invO xe 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 1 xe x 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 0 xe x 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 
 v1 1 0 1.8 
 
 .ends pg 
 
 .subckt pgNeg Aneg Bneg x 
 
 xm1 1 reset_loop critical_node 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 
 xm2 0 Aneg critical_node 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm10 1 Bneg critical_node 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm3 1 critical_node invO 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm4 0 critical_node invO 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm4 1 invO reset_loop 1 sky130_fd_pr__pfet_01v8 l=150n w=720n
 xm5 0 invO reset_loop 0 sky130_fd_pr__nfet_01v8 l=150n w=360n
 
 xm6 1 invO xe 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm7 0 invO xe 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 xm8 1 xe x 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
 xm9 0 xe x 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 
 
 
 v1 1 0 1.8 
 
 .ends pg 
 